Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[O:4])[C:12]([H:13])([H:14])[H:15],-0.242677307328
[C:7]([H:8])[H:9].[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.5756094032700005
[C:1]#[C:2][C:3][O:4][H:5].[O:6][H:7]>>[C:1]#[C:2][C:3]([O:4][H:5])[O:6][H:7],-5.713285664630001
[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:14]([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])([H:15])[H:16],-2.7746606
[H:1][C:2]/[C:3](=[C:4](/[H:5])[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([C:4]([H:5])=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7],1.50794234359
[C:1]#[C:2][C:4][O:5][H:7].[C:3]=[O:6]>>[C:1]#[C:2][C:3](=[C:4]=[O:5])[O:6][H:7],-1.25138919123
[C:1]#[C:7][C:10]([H:11])([H:12])[H:13].[C:2]([C:3]([H:4])([H:5])[H:6])([H:8])[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.33188851809
[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])[H:10]>>[H:7].[O:1]=[C:2]([H:3])[O:4][C:5]#[C:6][C:8]([H:9])[H:10],1.61245864073
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:2](=[C:3]([H:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13].[O:1],5.640601177280001
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]#[C:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14],-4.10566033235
[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-4.60194695735
[H:1][C:2]1([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])=[C:13]1>>[H:1][C:2]([H:3])([C:4]#[C:5][C:9]([H:10])([H:11])[H:12])[C:13]=[C:8]([H:6])[H:7],-1.6888571198700002
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:3][H:4],4.0994856873000005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8][C:10]([H:11])([H:12])[H:13].[H:9],3.67738155827
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[O:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-0.5989205637
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4][H:5],4.7080911616500005
[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-1.15019879194
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[O:1][C:2]#[C:3][O:4],4.93616539714
[H:1][O:2][C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:1].[O:2]=[C:3]=[C:4][C:5][O:6][C:7]([H:8])([H:9])[H:10],1.4617953192
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[O:9]>>[H:1][O:2][c:3]1[c:4][c:5]([H:6])[c:7]([H:8])[o:9]1,-0.0996681876313
[C:3]#[C:4][O:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]#[C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10],-4.9426709364
[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:14].[H:1]/[C:2](=[C:3](/[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13])[C:15]([H:16])([H:17])[H:18],4.54974858763
[C:1]=[C:2]([C:3]([H:4])[O:5][C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:8]([H:9])([H:10])[H:11].[C:3]([H:4])[O:5][C:6][H:7],4.40332205886
[H:1].[O:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.06165024176
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:5],3.80856201269
[O:1][C@@:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([H:3])([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1],4.21568139435
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[O:4],-1.96979868
[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C@@:9]([C:6]([H:7])[H:8])([H:10])[C:11]([H:12])([H:13])[H:14],1.46584684975
[C:8]#[C:9][H:10].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.44316650051
